US08097759B2
3-({N-[3,5-Bis(trifluoromethyl)phenyl]carbamoyl}-4-hydroxyphenyl)-2-cyanoacrylic acid (Compound No. 61)
3-({N-[3,5-Bis(trifluoromethyl)phenyl]carbamoyl}-4 hydroxyphenyl)-2-cyanoacrylic acid methyl ester (50 mg, 0.11 mmol) was dissolved in ethanol (5 mL). 2 N sodium hydroxide (0.11 ml, 0.22 mmol) was added, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with brine, dried over anhydrous magnesium sulfate, the residue obtained by evaporation under reduced pressure was recrystallized (ethyl acetate) to give the title compound (13.5 mg, 30.4%) as a light yellow solid.

reactant | 3-({N-[3,5-Bis(trifluoromethyl)phenyl]carbamoyl}-4 hydroxyphenyl)-2-cyanoacrylic acid methyl ester | 0.11 mmol, 50 mg | COC(C(=CC1=C(C=C(C=C1)O)C(NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C#N)=O | C20H12F6N2O4
reactant | sodium hydroxide | 0.22 mmol, 2 N, 0.11 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-({N-[3,5-Bis(trifluoromethyl)phenyl]carbamoyl}-4-hydroxyphenyl)-2-cyanoacrylic acid | 13.5 mg, 30.4% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1=C(C=CC(=C1)O)C=C(C(=O)O)C#N)(F)F | C19H10F6N2O4
